US08455488B2
Synthesis of 1-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-1,4-dioxo-4-(tritylamino)butan-2-ylamino)-2-oxoethyl)-1-methyl-4-(pyridin-4-ylmethyl)semicarbazide (Compound II-33)
According to the procedure described in the synthesis method of Compound II-15, 2-(1-methyl-2-(pyridin-4-ylmethylcarbamoyl)hydrazinyl)acetic acid (Compound VI-6) 56 mg (0.23 mmol) was coupled with (S)-2-amino-N1—((S)-1,1-diethoxypropan-2-yl)-N1-(naphthalen-1-ylmethyl)-N4-tritylsuccinamide (Compound IV-19) 100 mg (0.16 mmol) to obtain the title compound.

reactant | 2-(1-methyl-2-(pyridin-4-ylmethylcarbamoyl)hydrazinyl)acetic acid | 0.23 mmol, 56 mg | CN(NC(NCC1=CC=NC=C1)=O)CC(=O)O | C10H14N4O3
reactant | (S)-2-amino-N1—((S)-1,1-diethoxypropan-2-yl)-N1-(naphthalen-1-ylmethyl)-N4-tritylsuccinamide | 0.16 mmol, 100 mg | N[C@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)[C@H](C(OCC)OCC)C)CC(=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C41H45N3O4
product | 1-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-1,4-dioxo-4-(tritylamino)butan-2-ylamino)-2-oxoethyl)-1-methyl-4-(pyridin-4-ylmethyl)semicarbazide | C(C)OC([C@H](C)N(C([C@H](CC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)NC(CN(NC(=O)NCC1=CC=NC=C1)C)=O)=O)CC1=CC=CC2=CC=CC=C12)OCC | C51H57N7O6
